US08076486B2
5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-2,4-dihydro-[1,2,4]triazol-3-one
[4-(5-Ethoxy-4H-[1,2,4]triazol-3-yl)-pyridin-3-yl]-(2-fluoro-4-iodo-phenyl)-amine (80 mg) was added conc. HCl (4 mL). The reaction mixture was stirred at 90° C. for 4 hr, cooled and filtered, the solid was washed with water and methanol. Yield: white solid 30 mg. LC-MS (Method A) [5.23 min; 398(M+1)]

reactant | [4-(5-Ethoxy-4H-[1,2,4]triazol-3-yl)-pyridin-3-yl]-(2-fluoro-4-iodo-phenyl)-amine | 80 mg | C(C)OC=1NC(=NN1)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F | C15H13FIN5O
reactant | HCl | 4 mL | Cl | ClH
product | 5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-2,4-dihydro-[1,2,4]triazol-3-one | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C=1NC(NN1)=O | C13H9FIN5O
